US08937055B2
(2E)-3-[4-(4-fluorophenyl)pyridin-3-yl]-N-{4-[(methylsulfonyl)methyl]phenyl}prop-2-enamide
A mixture of (2E)-3-[4-(4-fluorophenyl)pyridin-3-yl]prop-2-enoic acid (0.24 g), 4-[(methylsulfonyl)methyl]aniline (0.19 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.25 g), 1-hydroxy-1H-1,2,3-benzotriazole (0.20 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 15 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to give a solid. The obtained solid was recrystallized from acetone/hexane to give the title compound (0.28 g).

reactant | (2E)-3-[4-(4-fluorophenyl)pyridin-3-yl]prop-2-enoic acid | 0.24 g | FC1=CC=C(C=C1)C1=C(C=NC=C1)/C=C/C(=O)O | C14H10FNO2
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.19 g | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.25 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-1,2,3-benzotriazole | 0.20 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (2E)-3-[4-(4-fluorophenyl)pyridin-3-yl]-N-{4-[(methylsulfonyl)methyl]phenyl}prop-2-enamide | 0.28 g | FC1=CC=C(C=C1)C1=C(C=NC=C1)/C=C/C(=O)NC1=CC=C(C=C1)CS(=O)(=O)C | C22H19FN2O3S
